US07465731B2
To a solution of (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (500 mg) in MeOH (5 mL) was added hydrogen chloride methanol reagent 10 (2.38 mL, Tokyo Kasei), and the mixture was stirred at ambient temperature for 1 hour. To the reaction mixture was added CH3CN and the solvent was removed in vacuo. Obtained colorless solid was triturated with CH3CN to give (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-hydroxyacrylamide hydrochloride (257.4 mg) as colorless powder.

reactant | (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 500 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C25H31N3O3
reactant | hydrogen chloride methanol | CO.Cl
reactant | CH3CN | CC#N | C2H3N
solvent | MeOH | 5 mL | CO | CH4O
product | (2E)-3-(4-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}phenyl)-N-hydroxyacrylamide hydrochloride | 257.4 mg | Cl.C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=CC=C(C=C1)/C=C/C(=O)NO | InChI=1S/C20H23N3O2.ClH/c24-20(22-25)11-8-16-6-9-18(10-7-16)21-19-12-13-23(15-19)14-17-4-2-1-3-5-17;/h1-11,19,21,25H,12-15H2,(H,22,24);1H/b11-8+;/t19-;/m1./s1
